US05739345
Ethyl 3-t-butyldimethylsilyloxy-3-(2-chloropyridin-3-yl)-2-methylaminopropionate
182 mg of 35% formalin, 0.1 ml of acetic acid and 121 mg of sodium cyanoborohydride were added to a solution of 0.7 g of ethyl 2-amino-3-t-butyldimethylsilyloxy-3-(2-chloropyridin-3-yl)propionate (prepared as described in Preparation 78) in 4 ml of a 3:2 by volume mixture of methylene chloride and water at 0° C., and the resulting mixture was stirred at 0° C. for 15 minutes. At the end of this time, a saturated aqueous solution of sodium hydrogencarbonate was added to the reaction mixture, after Which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 8:1 to 1:1 by volume as the eluent, to give 200 mg of the title compound having Rf=0.38 (on silica gel thin layer chromatography using a 3:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | formalin | 182 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 121 mg | C(#N)[BH3-].[Na+]
reactant | ethyl 2-amino-3-t-butyldimethylsilyloxy-3-(2-chloropyridin-3-yl)propionate | 0.7 g | NC(C(=O)OCC)C(C=1C(=NC=CC1)Cl)O[Si](C)(C)C(C)(C)C | C16H27ClN2O3Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | Ethyl 3-t-butyldimethylsilyloxy-3-(2-chloropyridin-3-yl)-2-methylaminopropionate | 200 mg | [Si](C)(C)(C(C)(C)C)OC(C(C(=O)OCC)NC)C=1C(=NC=CC1)Cl | C17H29ClN2O3Si
